US05712300
Preparation of α-[2-[(3,4-Difluorobenzoyl)amino]ethyl]-N-hydroxy-3-(3-hydroxypropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetamide
A solution of α-[2-[(3,4-difluorobenzoyl)amino]ethyl]-N-benzyloxy-3-(3-hydroxypropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetamide (215 mg, 0.368 mmol) is dissolved in EtOH (5 mL) and purged with N2. Pearlman's catalyst (22 mg) is added and the atmosphere was replaced with H2 . After 7 hours, the mixture is filtered through celite, washing the residual solids with MeOH, EtOH, and CH2Cl2. The filtrate is concentrated to give 171 mg of a slightly brown foam. The material is crystallized from hot EtOAc (diluting with hexane). The product is isolated and dried in the vacuum oven (45° C.) overnight to provide 117 mg (63%) of the title compound as a cream-colored, powdery solid (mp 118° C., dec.):

reactant | α-[2-[(3,4-difluorobenzoyl)amino]ethyl]-N-benzyloxy-3-(3-hydroxypropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetamide | 0.368 mmol, 215 mg | FC=1C=C(C(=O)NCCC(C(=O)NOCC2=CC=CC=C2)C2(C(N(CC2)CCC2=CC=CC=C2)=O)CCCO)C=CC1F | C33H37F2N3O5
solvent | EtOH | 5 mL | CCO | C2H6O
product | α-[2-[(3,4-Difluorobenzoyl)amino]ethyl]-N-hydroxy-3-(3-hydroxypropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetamide | 117 mg, 63% | FC=1C=C(C(=O)NCCC(C(=O)NO)C2(C(N(CC2)CCC2=CC=CC=C2)=O)CCCO)C=CC1F | C26H31F2N3O5
